US06194425B1
Phosphorous oxychloride (0.6 mL, 6.44 mmol) was reacted with N,N-dimethylformamide then added to a solution of 3-nitro[1,5]naphthyridin-4-ol (1.0 g, 5.23 mmol) in N,N-dimethylformamide (20 mL). The reaction mixture was warmed using a jacketed flask with refluxing acetone as a heat source. After 3 hours the reaction mixture was poured into ice water, isobutylamine (2.0 mL, 20.1 mmol) was added and the mixture was heated on a steam bath. After several hours the reaction mixture was cooled to ambient temperature, filtered and washed with water. The aqueous layer was extracted with dichloromethane. The dichloromethane extract was washed with aqueous sodium bicarbonate, washed with water, dried over magnesium filtrate then loaded onto a layer of silica gel. The silica gel was eluted initially with dichloromethane to remove an impurity then with 5% methanol in dichloromethane to recover the product. The eluant was concentrated to dryness to provide N4-(2-methylpropyl)-3-nitro[1,5]naphthyridin-4-amine as a solid, m.p. 97-99° C.

reactant | Phosphorous oxychloride | 6.44 mmol, 0.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-nitro[1,5]naphthyridin-4-ol | 5.23 mmol, 1.0 g | [N+](=O)([O-])C=1C=NC2=CC=CN=C2C1O | C8H5N3O3
reactant | acetone | CC(=O)C | C3H6O
reactant | isobutylamine | 20.1 mmol, 2.0 mL | C(C(C)C)N | C4H11N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N4-(2-methylpropyl)-3-nitro[1,5]naphthyridin-4-amine | CC(CNC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-])C | C12H14N4O2
